US09216999B2
N-{[trans-4-(7H-Pyrrolo[3,2-e][1,2,3]triazolo[1,5-c]pyrimidin-1-yl)cyclohexyl]methyl}-2-cyanoacetamide
[trans-4-(7H-Pyrrolo[3,2-e][1,2,3]triazolo[1,5-c]pyrimidin-1-yl)cyclohexyl]methanamine (40.0 mg, 0.148 mmol), 2-cyanoacetic acid (15.0 mg, 0.178 mmol) and O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (68.0 mg, 0.178 mmol) in N,N-dimethylformamide (2 mL) were mixed with N,N-diisopropylethylamine (57.0 μL, 0.326 mmol) and stirred at room temperature for 16 hours. After addition of water, the reaction mixture was extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium hydrogen carbonate, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/acetone=1/1→2/3 (v/v)) to give the title compound as a colorless solid (11.4 mg, yield 23%).

reactant | [trans-4-(7H-Pyrrolo[3,2-e][1,2,3]triazolo[1,5-c]pyrimidin-1-yl)cyclohexyl]methanamine | 0.148 mmol, 40.0 mg | C=1(N=NN2C=NC3=C(C21)C=CN3)[C@@H]3CC[C@H](CC3)CN | C14H18N6
reactant | 2-cyanoacetic acid | 0.178 mmol, 15.0 mg | C(#N)CC(=O)O | C3H3NO2
reactant | O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 0.178 mmol, 68.0 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | N,N-diisopropylethylamine | 0.326 mmol, 57.0 μL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | N-{[trans-4-(7H-Pyrrolo[3,2-e][1,2,3]triazolo[1,5-c]pyrimidin-1-yl)cyclohexyl]methyl}-2-cyanoacetamide | 11.4 mg, yield 23% | C=1(N=NN2C=NC3=C(C21)C=CN3)[C@@H]3CC[C@H](CC3)CNC(CC#N)=O | C17H19N7O
